US05262532
The acid derivative of 5,10,15,20-tetrakis(phenyl)porphyrin was prepared according to the procedure of Longo, et al. J. Heterocyclic Chem., 6, 927 (1969). 1.50 g 4-Carboxy-benzaldehyde (0.01 mole) and 0.69 mL pyrrole (0.01 mole) were combined in 150 mL propionic acid. The mixture was refluxed for 2 to 4 hours, cooled to room temperature, and then filtered through a fine frit. The resulting solid was then extracted into methanol and filtered through a medium frit. The filtrate was placed in a round-bottom flask, and the methanol removed on a rotary evaporator, leaving a solid purple residue. The recovered solid was then dried overnight under vacuum.

reactant | 4-Carboxy-benzaldehyde | 0.01 mole, 1.50 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | pyrrole | 0.01 mole, 0.69 mL | N1C=CC=C1 | C4H5N
solvent | propionic acid | 150 mL | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-tetrakis(phenyl)porphyrin | C1(=CC=CC=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)C3=CC=CC=C3)=N2)C2=CC=CC=C2 | C44H30N4
